US06380218B1
4-({[2-(3-Nitro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-cyclohexanecarboxylic acid ethyl ester
To a stirred solution of 4-Aminomethyl-cyclohexanecarboxylic acid ethyl ester hydrochloride (0.500 grams, 2.26 mmole), 2-(3-Nitro-phenoxy)-nicotinic acid (0.588 grams, 2.26 mmole), 1-hydroxybenzotriazole hydrate (0.366 grams, 2.71 mmole) and 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.564 grams, 2.93 mmole) in dimethylformamide (50 ml) was was added triethyl amine (0.456 grams, 4.52 mmole) and stirred over the weekend at room temperature. The mixture was diluted with water (150 ml) and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over MgSO4, filtered and concentrated to give an oil which was purified by chromatography on silica eluting with 40% ethyl acetate/hexane to give an oil. (1.05 g). MS (m/e) 428 (M++1); 1H NMR (CDCl3) d 1.01 (2H, m), 1.2 (3H, t), 1.4 (2H, q), 1.6 (1H, m), 1.90 (2H, d, J=12.5 Hz), 2.0 (1H, d, J=12.5 Hz), 2.2 (1H, m), 3.4 (2H, m), 4.10 (2H, q), 7.20-8.7 (7H, m).

reactant | 4-Aminomethyl-cyclohexanecarboxylic acid ethyl ester hydrochloride | 2.26 mmole, 0.500 grams | Cl.C(C)OC(=O)C1CCC(CC1)CN
reactant | 2-(3-Nitro-phenoxy)-nicotinic acid | 2.26 mmole, 0.588 grams | [N+](=O)([O-])C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C12H8N2O5
reactant | 1-hydroxybenzotriazole hydrate | 2.71 mmole, 0.366 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 2.93 mmole, 0.564 grams | Cl.C(C)N=C=N
reactant | triethyl amine | 4.52 mmole, 0.456 grams | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 4-({[2-(3-Nitro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)CNC(=O)C=1C(=NC=CC1)OC1=CC(=CC=C1)[N+](=O)[O-] | C22H25N3O6
